US04009022
Preparation of 4-nitrobenzil hydrazone
Benzoin, 60 g, is suspended in 600 ml acetic anhydride and 60 ml concentrated sulfuric acid is added under ice cooling. Under continued ice cooling, 33 g potassium nitrate is added in small portions. The reaction is stirred at room temperature for two days and poured over ice. The aqeuous portion is decanted off and the remaining oil is taken up in ether, washed with water, sodium bicarbonate solution, dried over potassium carbonate and stripped. The oil residue is added dropwise to concentrated nitric acid at 0°, followed by heating gently on a steam bath for 2 hours. After cooling, the solution is poured over ice. The solid which forms is removed by filtration (~40 g) and recrystallized three times from glacial acetic acid, to yield 5.5 g of a yellow solid, 4-nitrobenzil. To a solution of 0.7 g hydrazine hydrate in 50 ml ethanol is added a suspension of 4-nitrobenzil, 5.1 g, in 150 ml of ethanol. The reaction is heated on a steam bath for 1 hour and cooled. Plate-like crystals separate out and are removed by filtration. Yield 3.5 g. The product is recrystallized from 200 ml ethanol. M.P. 166°-173°.

reactant | hydrazine hydrate | 0.7 g | O.NN
reactant | 4-nitrobenzil | [N+](=O)([O-])C1=CC=C(C=C1)C(=O)C(=O)C1=CC=CC=C1 | C14H9NO4
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-nitrobenzil hydrazone | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)C1=CC=CC=C1)=NN | C14H11N3O3
